US09233982B2
Step 1: 4-vinyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-ol
6,7-Dihydrobenzo[b]thiophen-4(5H)-one (8.48 g, 56 mmol) was dissolved in anhydrous diethyl ether (200 mL) and the solution was cooled to −30° C. Vinyl magnesium chloride (60 mL, 1.6 M solution in THF, 96 mmol) was added to the ketone portion-wise whilst maintaining the temperature at −30° C. Upon completion of the addition, the reaction was stirred at −30° C. for 30 min and then allowed to warm to 25° C. Stirring was continued overnight and the solution was then treated with saturated ammonium chloride solution. The product was extracted into dichloromethane and this was back extracted with water and saturated brine. The dichloromethane solution was dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a crude, yellow oil (10.1 g, 100%). This compound was used directly in the next step without further purification.

reactant | 6,7-Dihydrobenzo[b]thiophen-4(5H)-one | 56 mmol, 8.48 g | S1C2=C(C=C1)C(CCC2)=O | C8H8OS
reactant | Vinyl magnesium chloride | 96 mmol, 1.6 M, 60 mL | C(=C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-vinyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-ol | C(=C)C1(CCCC=2SC=CC21)O | C10H12OS
